US07741352B2
2-Methoxy-4-nonyl benzoic acid
To dry diethyl ether (10 mL) containing Mg turnings (0.24 g; 10 mmol) under N2 was added 1-bromo-2-methoxy-nonyl benzene (3.1 g; 10 mmol). 1,2-Dioiodoethane was added to initiate the reaction. Solid dry Ice (excess) was added after stirring for 1 hour and after additional stirring for 1 hour was added sat. NH4Cl (aq.; 20 mL) and then 4 M HCl (aq.; 2 mL). The organic phase was isolated, dried (MgSO4), filtered and purified by column chromatography (SiO2; EtOAc/PE80-100° C.=1:5) to yield 600 mg (20%) pure product.

reactant | 1-bromo-2-methoxy-nonyl benzene | 10 mmol, 3.1 g | BrC(C(CCCCCCC)OC)C1=CC=CC=C1 | C16H25BrO
reactant | dry Ice | C(=O)=O | CO2
reactant | NH4Cl | 20 mL | [NH4+].[Cl-]
reactant | HCl | 4 M, 2 mL | Cl | ClH
reactant | diethyl ether | 10 mL | C(C)OCC | C4H10O
product | 2-Methoxy-4-nonyl benzoic acid | 600 mg, 20% | COC1=C(C(=O)O)C=CC(=C1)CCCCCCCCC | C17H26O3
